US07241791B2
Step 2: 4-(7-Morpholin-4-yl-1-propyl-1H-indazole-3-yl)phenol
Prepared according to Method D step C from 3-(4-Methoxyphenyl)-7-morpholin-4-yl-1-propyl-1H-indazole (0.140 g, 0.4 mmol), BBr3 (0.076 mL, 0.8 mmol) to give title compound as a white solid which was recrystallized from ethyl acetate and hexane (0.05 g, 0.15 mmol, 37%).

reactant | 3-(4-Methoxyphenyl)-7-morpholin-4-yl-1-propyl-1H-indazole | 0.4 mmol, 0.140 g | COC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)N1CCOCC1)CCC | C21H25N3O2
reactant | BBr3 | 0.8 mmol, 0.076 mL | B(Br)(Br)Br | BBr3
product | 4-(7-Morpholin-4-yl-1-propyl-1H-indazole-3-yl)phenol | N1(CCOCC1)C=1C=CC=C2C(=NN(C12)CCC)C1=CC=C(C=C1)O | C20H23N3O2
